US05260318
2.4 g (10.9 mmol) of 1-(4-nitrophenyl)-4-piperidone and 2.0 g (10.9 mmol) of N-methyl-N-(2-(4-nitrophenyl)ethyl)amine were reacted in a similar manner to Example 1. 2.2 g of 1-(4-nitrophenyl)-4-(N-methyl-N-(2-(4-nitrophenyl)ethyl)amino)piperidine were obtained. Melting point 97°-98° C.

reactant | 1-(4-nitrophenyl)-4-piperidone | 10.9 mmol, 2.4 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCC(CC1)=O | C11H12N2O3
reactant | N-methyl-N-(2-(4-nitrophenyl)ethyl)amine | 10.9 mmol, 2.0 g | CNCCC1=CC=C(C=C1)[N+](=O)[O-] | C9H12N2O2
product | 1-(4-nitrophenyl)-4-(N-methyl-N-(2-(4-nitrophenyl)ethyl)amino)piperidine | 2.2 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCC(CC1)N(CCC1=CC=C(C=C1)[N+](=O)[O-])C | C20H24N4O4
